US04082751
Preparation 43: 1,6-Dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxamide
A mixture of ethyl 1,6-dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxylate (10.0 g.) and aqueous ammonia (120 ml., d = 0.90) was heated in a sealed vessel on a steam bath for 4.5 hours. The solution was partially evaporated and then acidified to pH 3 with 6N hydrochloric acid. The collected solid was washed with water, dried, and recrystallized from N,N-dimethylformamide to give the title compound (6.93 g., 77% yield), m.p. 236°-238°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxylate | 10.0 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC)C(=O)OCC | C15H16N2O4
reactant | ammonia | 120 ml | N | H3N
product | 1,6-Dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxamide | 6.93 g, 77% yield | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC)C(=O)N | C13H13N3O3
